US07517880B2
N-(5-Chloro-2-hydroxy-4-nitrophenyl)-N′-(4-(4-pyridinylmethyl)phenyl)urea:
A solution of 4-(4-pyridinylmethyl)aniline (0.300 g, 1.63 mmol) and N,N′-carbonyldiimidazole (0.268 g, 1.65 mmol) in CH2Cl2 (10 mL) was stirred at room temp. for 1 h at which time TLC analysis indicated no starting aniline. The reaction mixture was then treated with 2-amino-4-chloro-5-nitrophenol (0.318 g, 1.65 mmol) and stirred a 40-45° C. for 48 h. The resulting mixture was cooled to room temp. and diluted with EtOAc (25 mL). The resulting precipitate was separated to give the desired product (0.416 g, 64%): TLC (50% acetone/50% CH2Cl2) Rf 0.40; 1H-NMR (DMSO-d6) δ 3.90 (s, 2H), 7.18 (d, J=8.4 Hz, 2H), 7.21 (d, J=6 Hz, 2H), 7.38 (d, J=8.4 Hz, 2H), 7.54 (s, 1H), 8.43-8.45 (m, 3H), 8.78 (s, 1H), 9.56 (s, 1H), 11.8 (br s, 1H); FAB-MS m/z (rel abundance) 399 ((M+H)+, 10%). B6. General Method for the Synthesis of Symmetrical Diphenyl Ureas as Side-Products of Urea Forming Reactions

reactant | 4-(4-pyridinylmethyl)aniline | 1.63 mmol, 0.300 g | N1=CC=C(C=C1)CC1=CC=C(N)C=C1 | C12H12N2
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | 2-amino-4-chloro-5-nitrophenol | 1.65 mmol, 0.318 g | NC1=C(C=C(C(=C1)Cl)[N+](=O)[O-])O | C6H5ClN2O3
reactant | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Chloro-2-hydroxy-4-nitrophenyl)-N′-(4-(4-pyridinylmethyl)phenyl)urea | 0.416 g, 64% | ClC=1C(=CC(=C(C1)NC(=O)NC1=CC=C(C=C1)CC1=CC=NC=C1)O)[N+](=O)[O-] | C19H15ClN4O4
